US08106070B2
2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(1H-pyrazol-4-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 4 mmol) was added to a solution of 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-4-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (100 mg, 0.22 mmol) in methanol (1 mL). After stirring at 70° C. for 1 h, volatiles were removed in vacuo. The residue was partitioned between methanol/ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. (M+H) found: 353.

reactant | Hydrogen chloride | 4 mmol, 4 M, 1 mL | Cl | ClH
reactant | 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-4-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.22 mmol, 100 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C=1C=NNC1)(C)O)(CC)C | C23H33N5O3S
solvent | methanol | 1 mL | CO | CH4O
product | 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(1H-pyrazol-4-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C=1C=NNC1)(C)O)(CC)C | C21H28N4O
